US08563596B2
To a suspension of 50% sodium hydride in mineral oil (1.39 g, 29.1 mmol) in N,N-dimethylformamide (60 mL) maintained under nitrogen atmosphere and cooled to 0° C., (±)-trans-1-[2-hydroxy-3-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-4,6-dimethoxyphenyl]-ethanone (3 g, 9.7 mmol) was added portionwise and stirred for 15 mins. At the end of 15 mins., 2-methoxy methylbenzoate (4.8 g, 29 mmol) was added dropwise and the reaction stirred at 0° C. for 1 hr. Excess sodium hydride was destroyed by careful addition of methanol. The reaction mixture was acidified with dilute HCl, and basified with 10% sodium bicarbonate to pH 9. The reaction mixture was concentrated under reduced pressure and dried under vacuum to yield 1-[2-hydroxy-3-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-4,6-dimethoxyphenyl]-3-(2-methoxyphenyl)-propane-1,3-dione as an oil (1.4 g). This β-diketone was dissolved in conc. HCl (50 mL) and stirred for 3 hrs. to effect cyclisation. At the end of 3 hrs, the reaction mixture was basified with solid NaHCO3 to pH 10. The aqueous layer was extracted with chloroform (50×3 mL) and washed with water (25 mL) and brine (25 mL). The organic layer was dried over anhydrous Na2SO4, concentrated under reduced pressure and dried over vacuum. The residue was purified by column chromatography with 3% methanol in chloroform and 0.1% ammonia as eluent to yield the compound, (±)-trans-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-5,7-dimethoxy-2-(2-methoxyphenyl)-chromen-4-one.

reactant | sodium hydride | [H-].[Na+]
reactant | (±)-trans-1-[2-hydroxy-3-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-4,6-dimethoxyphenyl]-ethanone | 9.7 mmol, 3 g | OC1=C(C(=CC(=C1[C@H]1[C@@H](N(CC1)C)CO)OC)OC)C(C)=O | C16H23NO5
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 1-[2-hydroxy-3-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-4,6-dimethoxyphenyl]-3-(2-methoxyphenyl)-propane-1,3-dione | 1.4 g | OC1=C(C(=CC(=C1C1C(N(CC1)C)CO)OC)OC)C(CC(=O)C1=C(C=CC=C1)OC)=O | C24H29NO7
